US06043373
(B) 2-Phenyl-5,6-dihydroimidazo[2,1-b]benzothiazole-8(7H)-one (Compound (IIa) in Reaction Scheme II)
2-Mercapto-4-phenylimidazole (10.6 g) and 2-bromo-1,3-cyclohexadione (12.6 g) were placed into absolute ethanol (200 ml) and the reaction mixture was heated to reflux for 16 hours and then cooled to give hydrobromide salt of the desired compound (16.3 g). The hydrobromide salt was neutralized with 10% sodium carbonate solution in an aqueous system to give the titled compound (12.3 g, 76%).

reactant | 2-Mercapto-4-phenylimidazole | 10.6 g | SC=1NC=C(N1)C1=CC=CC=C1 | C9H8N2S
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | 2-Phenyl-5,6-dihydroimidazo[2,1-b]benzothiazole-8(7H)-one | 16.3 g | C1(=CC=CC=C1)C=1N=C2SC3=C(N2C1)CCCC3=O | C15H12N2OS
